US07427635B2
To a solution of 3-(2-amino-thiazol-4-yl)-2-methoxy-3-oxo-propionic acid methyl ester (765 mg, 3.3 mmol) in tetrahydrofuran (25 ml) was added 1M aqueous sodium hydroxide (4.0 ml, 4.0 mmol) at room temperature. The mixture was stirred for 2 hours then cooled to 0° C. 1 N aqueous sulfuric acid (33 mL, 33.2 mmol) was added and the reaction was warmed to 40° C. for 30 minutes. The reaction mixture was then cooled to 0° C. and made basic with saturated aqueous sodium bicarbonate. The suspension was extracted with ethyl acetate, the combined organic extracts washed with water, brine and dried over magnesium sulfate. The crude product was purified by chromatography over silica gel eluted with 7:3 ethyl acetate/hexanes to give 1-(2-amino-thiazol-4-yl)-2-methoxy-ethanone as a yellow oil (240 mg, 42% yield).

reactant | 3-(2-amino-thiazol-4-yl)-2-methoxy-3-oxo-propionic acid methyl ester | 3.3 mmol, 765 mg | COC(C(C(=O)C=1N=C(SC1)N)OC)=O | C8H10N2O4S
reactant | sodium hydroxide | 4.0 mmol, 1M, 4.0 ml | [OH-].[Na+]
reactant | sulfuric acid | 33.2 mmol, 1 N, 33 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 1-(2-amino-thiazol-4-yl)-2-methoxy-ethanone | 240 mg, 42% yield | NC=1SC=C(N1)C(COC)=O | C6H8N2O2S
